US07799800B2
Under a nitrogen atmosphere, a mixture of 1-[2-(2-aminoethoxy)ethyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine (444.5 mg, 1.349 mmol) in a mixture of dichloromethane (20.0 mL) and triethylamine (470 μL, 3.37 mmol) was cooled to 0° C. Myristoyl chloride (367 μL, 1.35 mmol) was slowly added over a period of 10 minutes. The reaction mixture was allowed to stir at 0° C. for 1 hour at which time analysis by thin layer chromatography indicated that there was no starting material left. The reaction mixture was diluted with dichloromethane (50 mL), washed with saturated sodium bicarbonate solution (2×15 mL), dried over magnesium sulfate and then concentrated under reduced pressure. The crude product was purified by column chromatography (20 g of silica gel eluted with 2% methanol in dichloromethane) followed by recrystallization from ethyl acetate (1.2 mL) and then further purified by column chromatography (25 g of silica gel eluted sequentially with 300 mL of 1% CMA in chloroform, 500 mL of 2% CMA in chloroform, 500 mL of 3% CMA in chloroform, 500 mL of 4% CMA in chloroform, 750 mL of 5% CMA in chloroform, and 600 mL of 6% CMA in chloroform) to provide 9.5 mg of N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)tetradecanamide as a white waxy solid, m.p. 85-87° C.

reactant | 1-[2-(2-aminoethoxy)ethyl]-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 1.349 mmol, 444.5 mg | NCCOCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCOC | C17H23N5O2
reactant | triethylamine | 3.37 mmol, 470 μL | C(C)N(CC)CC | C6H15N
reactant | Myristoyl chloride | 1.35 mmol, 367 μL | C(CCCCCCCCCCCCC)(=O)Cl | C14H27ClO
solvent | dichloromethane | 20.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(2-{2-[4-amino-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)tetradecanamide | 9.5 mg | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCOCCNC(CCCCCCCCCCCCC)=O)CCOC | C31H49N5O3
